US07514567B2
(b) (R)-3′-[2-(3-Pyridyl)thiophen-4-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one
The title compound was prepared by a method analogous to that described in Preparation 3 from (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one and 4-bromo-2-(3-pyridyl)thiophene. The title compound (800 mg) was obtained as a pale-yellow solid, m/z 342 (MH+).

reactant | (S)-spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | O1C(NC[C@@]12CN1CCC2CC1)=O | C9H14N2O2
reactant | 4-bromo-2-(3-pyridyl)thiophene | BrC=1C=C(SC1)C=1C=NC=CC1 | C9H6BrNS
product | (R)-3′-[2-(3-Pyridyl)thiophen-4-yl]spiro[1-azabicyclo[2.2.2]octan-3,5′-oxazolidin]-2′-one | 800 mg | N1=CC(=CC=C1)C=1SC=C(C1)N1C(O[C@@]2(C1)CN1CCC2CC1)=O | C18H19N3O2S
